US07943788B2
5-Bromo-2-fluoro-1-(5-phenyl-2-thienylmethyl)benzene
2-Phenylthiophene and 5-bromo-2-fluorobenzaldehyde were treated in a manner similar to Reference Example 7 to give the target compound. APCI-Mass m/Z 347/349 (M+H).

reactant | 2-Phenylthiophene | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
product | 5-Bromo-2-fluoro-1-(5-phenyl-2-thienylmethyl)benzene | BrC=1C=CC(=C(C1)CC=1SC(=CC1)C1=CC=CC=C1)F | C17H12BrFS
